US08975411B2
Synthesis of tert-butyl 4-(2-nitrophenyl)-1H-imidazol-2-ylcarbamate
tert-Butyl amino(imino)methylcarbamate (4.78 g; 30 mmol) was dissolved in N,N-dimethylformamide (30 mL), 2-bromo-2′-nitroacetophenone (2.44 g; 10 mmol) was added thereto, and the mixture was stirred for 144 hours at room temperature. To the reaction solution, water (100 mL) was added, and the precipitated powder was collected by filtration. The resulting powder was dissolved in ethyl acetate (200 mL), and the mixture was washed with saturated aqueous sodium bicarbonate solution (two times). The organic layer was dried over anhydrous magnesium sulfate and then distilled under reduced pressure. The resulting residue was dispersed in acetone/diethyl ether, collected by filtration and dried to give 1.09 g of the title compound (yield 36%).

reactant | tert-Butyl amino(imino)methylcarbamate | 30 mmol, 4.78 g | NN(C(OC(C)(C)C)=O)C=N | C6H13N3O2
reactant | 2-bromo-2′-nitroacetophenone | 10 mmol, 2.44 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | water | 100 mL | O | H2O
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-(2-nitrophenyl)-1H-imidazol-2-ylcarbamate | 1.09 g, yield 36% | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C(NC1)NC(OC(C)(C)C)=O | C14H16N4O4
